US06004724
4.5 g (20 mmol) of (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-thiophen-2-yl-acetonitrile are dissolved in 50 ml of THF and cooled in an ice bath. After adding 4.2 ml (30 mmol) of triethylamine to the solution, 1.7 ml (22 mmol) of methanesulfonyl chloride are added dropwise, keeping the temperature below 5° C. The reaction mixture is stirred in the ice bath for 30 min. The reaction mixture is poured into 200 ml of water, and extracted with ethyl acetate. The organic phase is washed with hydrochloric acid solution, water, and sodium chloride solution. The organic phase is dried over MgSO4, the solvent is distilled off, and the residue is purified by recrystallization from toluene. 1.8 g (30%) of (4-Methylsulfonyloxyimino-cyclohexa-2,5-dienylidene)-thiophen-2-yl-acetonitrile are obtained in the form of orange crystals having a melting point of 123-125° C. (dec.).

reactant | (4-Hydroxyimino-cyclohexa-2,5-dienylidene)-thiophen-2-yl-acetonitrile | 20 mmol, 4.5 g | ON=C1C=CC(C=C1)=C(C#N)C=1SC=CC1 | C12H8N2OS
reactant | triethylamine | 30 mmol, 4.2 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 22 mmol, 1.7 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 200 ml | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | (4-Methylsulfonyloxyimino-cyclohexa-2,5-dienylidene)-thiophen-2-yl-acetonitrile | 1.8 g, 30% | CS(=O)(=O)ON=C1C=CC(C=C1)=C(C#N)C=1SC=CC1 | C13H10N2O3S2
